US06858638B2
2-Methylsulfonyl-N-(1H-indazol-5-yl)benzenesulfonamide can be obtained as described in Example 2 from 1 g of 5-amino-1H-indazole, 20 ml of pyridine and 1.91 g of 2-methylsulfonylbenzenesulfonyl chloride. 0.64 g of 2-methylsulfonyl-N-(1H-indazol-5-yl)benzenesulfonamide is thus obtained in the form of a white solid melting at 245° C. (analysis C14H13N3O4S2 % calculated C, 47.85; H, 3.73; N, 11.96; O, 18.21; S, 18.25. % found C, 47.42; H, 3.72; N, 11.64; S, 17.97).

reactant | 5-amino-1H-indazole | 1 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 2-methylsulfonylbenzenesulfonyl chloride | 1.91 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylsulfonyl-N-(1H-indazol-5-yl)benzenesulfonamide | 0.64 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C=NNC2=CC1 | C14H13N3O4S2
